US09029392B2
7-Fluoro-8-methyl-2-(pyridin-3-yl)quinoline-3-carbaldehyde
Prepared according to the procedure described for Intermediate 1, utilising 2-chloro-7-fluoro-8-methylquinoline-3-carbaldehyde (5.0 g, 22.36 mmol), 3-pyridylboronic acid (3.02 g, 24.6 mmol), tetrakis(triphenylphosphine)palladium(0) (127 mg, 0.11 mmol) and Na2CO3 (3.55 g, 33.54 mmol) in water (30 mL) and DME (60 mL). The title compound (5.52 g, 93%) was obtained as a beige solid. δH (DMSO-d6) 10.13 (s, 1H), 9.08 (s, 1H), 8.95 (dd, J 2.3, 0.8 Hz, 1H), 8.75 (dd, J 4.9, 1.7 Hz, 1H), 8.24 (dd, J 9.0, 6.4 Hz, 1H), 8.16-8.21 (m, 1H), 7.68 (t, J 9.2 Hz, 1H), 7.61 (ddd, J 7.9, 4.0, 0.8 Hz, 1H), 2.66 (d, J 2.4 Hz, 3H). LCMS (ES+) 267 (M+H)+, RT 2.16 minutes.

reactant | 2-chloro-7-fluoro-8-methylquinoline-3-carbaldehyde | 22.36 mmol, 5.0 g | ClC1=NC2=C(C(=CC=C2C=C1C=O)F)C | C11H7ClFNO
reactant | 3-pyridylboronic acid | 24.6 mmol, 3.02 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 33.54 mmol, 3.55 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 30 mL | O | H2O
solvent | DME | 60 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.11 mmol, 127 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Fluoro-8-methyl-2-(pyridin-3-yl)quinoline-3-carbaldehyde | 5.52 g, 93% | FC1=CC=C2C=C(C(=NC2=C1C)C=1C=NC=CC1)C=O | C16H11FN2O
